US05120347
To a solution of 3-fluorobenzhydrazide (5.0 g, 0.033 mol) in tetrahydrofuran (100 mL) was added ethyl isocyanate (2.6 g, 0.036 mol) at room temperature. After stirring for 24 hr, the resultant precipitate was collected by suction-filtration to give 1-(3-fluorobenzoyl)-4-ethyl semicarbazide in quantitative yield.

reactant | 3-fluorobenzhydrazide | 0.033 mol, 5.0 g | FC=1C=C(C(=O)NN)C=CC1 | C7H7FN2O
reactant | ethyl isocyanate | 0.036 mol, 2.6 g | C(C)N=C=O | C3H5NO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-(3-fluorobenzoyl)-4-ethyl semicarbazide | quantitative yield | FC=1C=C(C(=O)NNC(=O)NCC)C=CC1 | C10H12FN3O2
